US09399623B2
6-Chloro-2-(3-methoxy-propoxy)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide (69)
The title compound was synthesized according to the procedure described in example 9 using 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro cyclohexyl methyl)-amide and 3-methoxy-propan-1-ol. 1H NMR (400 MHz, DMSO-d6): δ 8.79-8.82 (m, 1H), 7.95 (d, J=9.11 Hz, 1H), 7.79 (d, J=9.01 Hz, 1H), 7.70 (d, J=9.01 Hz, 1H), 7.12 (d, J=9.12 Hz, 1H), 4.45 (t, J=13.2 Hz, 2H), 3.49 (t, J=12.61 Hz, 2H), 3.25 (s, 5H), 1.97-2.04 (m, 4H), 1.80-1.86 (m, 3H), 1.73-1.76 (m, 2H), 1.23-1.32 (m, 2H). m/z: 427.0 [M+H]+

reactant | 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro cyclohexyl methyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl)F | C17H16Cl2F2N2O
reactant | 3-methoxy-propan-1-ol | COCCCO | C4H10O2
product | 6-Chloro-2-(3-methoxy-propoxy)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)OCCCOC)F | C21H25ClF2N2O3
